US07635715B2
Step D: Preparation of Ethyl 7-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
Diethyl 2-(4-(3-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (10.66 g, 27.8 mmol) was added to H2SO4 (50 mL, 591 mmol), and the mixture was stirred at room temperature for 1 hour. Ice (H2O) was added, and the aqueous mixture was extracted with EtOAc (2×). The combined organic layers were washed with water (2×) and brine, dried (MgSO4), and concentrated in vacuo to give the crude compound as an orange oil. The crude oil was purified by silica flash chromatography (0-100% DCM/hexane) to give the desired compound as a yellow solid (4.93 g). MS (m/e)=337.1 (M+H)+.

reactant | Diethyl 2-(4-(3-chlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 27.8 mmol, 10.66 g | ClC=1C=C(C=CC1)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H23ClO6
reactant | H2SO4 | 591 mmol, 50 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 7-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 4.93 g | ClC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)OCC)O | C17H17ClO5
